US05773463
(±)trans-1-(4-Benzyloxyphenoxy)-2-methylaminoindane Hydrochloride (E18)
The title compound was prepared in a similar manner to Example 12 from LiAlH4 (190 mg, 5 mmol), trans-1-(4-benzyloxyphenoxy)-2-ethoxycarbonylaminoindane (750 mg, 1.7 mmol) and tetrahydrofuran (50 ml). After a reaction time of 18 h at room temperature and a further hour at reflux, the reaction was worked up as previously described and subjected to column chromatography on silica gel eluting with 2% ethanol in chloroform to afford a pale yellow oil (290 mg) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. 185°-187° C. (from methanol-diethyl ether).

reactant | LiAlH4 | 5 mmol, 190 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | trans-1-(4-benzyloxyphenoxy)-2-ethoxycarbonylaminoindane | 1.7 mmol, 750 mg | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@@H](CC3=CC=CC=C23)NC(=O)OCC)C=C1 | C25H25NO4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)trans-1-(4-Benzyloxyphenoxy)-2-methylaminoindane Hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@@H](CC3=CC=CC=C23)NC)C=C1 | InChI=1S/C23H23NO2.ClH/c1-24-22-15-18-9-5-6-10-21(18)23(22)26-20-13-11-19(12-14-20)25-16-17-7-3-2-4-8-17;/h2-14,22-24H,15-16H2,1H3;1H/t22-,23-;/m1./s1
